US08003662B2
Step B: Preparation of 2-(benzylamino)-5-(4-(benzyloxy)-3-fluorophenyl)-3-methylpyrimidin-4(3H)-one:
A suspension of 2-(benzylamino)-5-bromo-3-methylpyrimidin-4(3H)-one (0.130 g, 0.442 mmol), 4-(benzyloxy)-3-fluorophenylboronic acid (0.130 g, 0.530 mmol), Pd(PPh3)4 (0.026 g, 0.022 mmol) and lithium chloride (0.075 g, 1.77 mmol) in dioxane (2 mL) and 2M aqueous Na2CO3 (2 mL) was stirred at 100° C. for 1 hour. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash column chromatography, eluting with 10:1 CH2Cl2/EtOAc. The product was obtained (146 mg; 80%) as an off-white foam solid. 1H NMR (400 MHz, DMSO-d6) δ 7.89 (s, 1H), 7.55 (dd, 1H), 7.48-7.43 (m, 2H), 7.43-7.29 (m, 8H), 7.26-7.15 (m, 2H), 5.18 (s, 2H), 4.62 (d, 2H), 3.42 (s, 3H). LRMS (APCI pos) m/e 416 (M+1).

reactant | 2-(benzylamino)-5-bromo-3-methylpyrimidin-4(3H)-one | 0.442 mmol, 0.130 g | C(C1=CC=CC=C1)NC1=NC=C(C(N1C)=O)Br | C12H12BrN3O
reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 0.530 mmol, 0.130 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | lithium chloride | 1.77 mmol, 0.075 g | [Cl-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.022 mmol, 0.026 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(benzylamino)-5-(4-(benzyloxy)-3-fluorophenyl)-3-methylpyrimidin-4(3H)-one | C(C1=CC=CC=C1)NC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C25H22FN3O2
